US04329347
7-(4-Phenylsulfonyl-butoxy)-3,4-dihydro-carbostyril
Prepared analogous to Example 4 from 7-hydroxy-3,4-dihydro-carbostyril (see N. Shigematsu et al., Chem. Pharm. Bull. 1961, 970-975) and 4-phenylsulfonyl-butyl bromide.

reactant | 7-hydroxy-3,4-dihydro-carbostyril | OC1=CC=C2CCC(NC2=C1)=O | C9H9NO2
reactant | 4-phenylsulfonyl-butyl bromide | C1(=CC=CC=C1)S(=O)(=O)CCCCBr | C10H13BrO2S
product | 7-(4-Phenylsulfonyl-butoxy)-3,4-dihydro-carbostyril | C1(=CC=CC=C1)S(=O)(=O)CCCCOC1=CC=C2CCC(NC2=C1)=O | C19H21NO4S
